US07115611B2
C] [4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethyl]-methyl-amine
0.83 g (2.2 mmol) of [4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethyl]-methyl-carbamic acid ethyl ester was dissolved in 15 ml of ethylene glycol. Then, 1.72 g (26.4 mmol) of potassium hydroxide (86%) and 0.44 ml=0.46 g (9.0 mmol) of hydrazine hydrate were added and the reaction mixture heated up to 190° C. (oil bath, 210° C.) for 90 minutes. After cooling down below 80° C., some pieces of ice were added to the reaction mixture followed by EtOAc. It was then extracted twice with EtOAc; the combined organic phases were washed with water, dried over anhydrous magnesium sulfate and evaporated. The crude product was purified by flash chromatography (SiO2, gradient of MeCl2, MeOH) to give 0.59 g of the title compound as yellow solid.

reactant | [4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethyl]-methyl-carbamic acid ethyl ester | 2.2 mmol, 0.83 g | C(C)OC(N(C)CC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)=O | C19H20F3N3O2
reactant | potassium hydroxide | 26.4 mmol, 1.72 g | [OH-].[K+]
reactant | hydrazine hydrate | 9.0 mmol, 0.46 g | O.NN
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | ethylene glycol | 15 ml | C(CO)O | C2H6O2
product | [4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethyl]-methyl-amine | 0.59 g | C1(CC1)C1=NC(=NC=C1CNC)C1=CC=C(C=C1)C(F)(F)F | C16H16F3N3
